US05455274
A stirred solution of 4-[5-(4-cyanophenoxy)pentyloxy]-2-hydroxy-N,N-bis(1-methylethyl)benzamide (5.7 g, 13.4 mmol) in 50 mL of acetone is treated with sodium hydroxide (5.4 g, 134 mmol) and heated to reflux. The reaction is treated slowly with chloroform (1.4 mL, 17.4 mmol) in 150 mL of acetone and refluxed for 4 hours. The reaction is concentrated in vacuo and the residue is partitioned between ethyl acetate and 1N hydrochloric acid. The organic phase is washed with brine, dried over magnesium sulfate, and concentrated in vacuo. The resulting material is purified by chromatography on silica gel (200 g) with 0-10% methanol/ethyl acetate as the eluent to afford 2-[5-[5-(4-cyanophenoxy)pentyloxy]-2-[N,N -bis(1-methylethyl)aminocarbonyl]phenoxy]-2-methylpropanoic acid as a colorless foam.

reactant | 4-[5-(4-cyanophenoxy)pentyloxy]-2-hydroxy-N,N-bis(1-methylethyl)benzamide | 13.4 mmol, 5.7 g | C(#N)C1=CC=C(OCCCCCOC2=CC(=C(C(=O)N(C(C)C)C(C)C)C=C2)O)C=C1 | C25H32N2O4
reactant | sodium hydroxide | 134 mmol, 5.4 g | [OH-].[Na+]
reactant | chloroform | 17.4 mmol, 1.4 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetone | 50 mL | CC(=O)C | C3H6O
solvent | acetone | 150 mL | CC(=O)C | C3H6O
product | 2-[5-[5-(4-cyanophenoxy)pentyloxy]-2-[N,N -bis(1-methylethyl)aminocarbonyl]phenoxy]-2-methylpropanoic acid | C(#N)C1=CC=C(OCCCCCOC=2C=CC(=C(OC(C(=O)O)(C)C)C2)C(=O)N(C(C)C)C(C)C)C=C1 | C29H38N2O6
